US06826033B2
To an ice-cooled mixture of (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-1-propanol (63 mg) and pyridine (25 μl) in dichloromethane (0.6 ml) was added dropwise benzoyl chloride (22 μl), and the mixture was stirred at room temperature for more than 2 hours. The mixture was partitioned between chloroform-methanol and water. The organic layer was separated, washed with brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated and the residue was purified by column chromatography (silica gel, chloroform/methanol) to give N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]phenyl]benzamide (80 mg) as a white amorphous powder.

reactant | (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-1-propanol | 63 mg | NC1=CC=C(C=C1)C[C@@H](CO)N(C[C@@H](COC1=CC=CC=C1)O)CC1=CC=CC=C1 | C25H30N2O3
reactant | pyridine | 25 μl | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 22 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 0.6 ml | ClCCl | CH2Cl2
product | N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]phenyl]benzamide | 80 mg | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)[C@@H](CC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O)CO | C32H34N2O4
